US08980077B2
3,3′-(ethane-1,2-diylbis(sulfanediyl))bis(propane-1-sulfonic acid) (Compound 5)
To a solution of 3-bromopropane sulfonic acid sodium salt (24.7 g, 110 mmol) and sodium methoxide (7.06 g, 131 mmol) in EtOH (300 mL) at ambient temperature was added, dropwise, 1,2-ethanedithiol (4.4 mL, 52.3 mmol) in ethanol (25 mL). Allowed to stir at room temperature for one hour, and then heated to reflux overnight. Cooled to room temperature and acidified with 2 N HCl to pH 1-2. The resulting suspension was heated to 75° C. and water was slowly added in small portions until a clear solution was obtained. Cooled to room temperature, and then to 5° C. The resulting white precipitate was filtered off, washed with cold EtOH and dried, giving 11.9 g (67.4%) as a white powder. 1H NMR (400 MHz, D2O) δ 3.10 (t, J=7.2 Hz, 4H), 2.92 (s, 4H), 2.82 (t, J=7.2 Hz, 4H), 2.11 (m, 4H). 13C NMR (101 MHz, D2O) δ 52.26, 33.38, 32.27, 26.80.

reactant | 3-bromopropane sulfonic acid sodium salt | 110 mmol, 24.7 g | [Na+].BrCCCS(=O)(=O)[O-]
reactant | sodium methoxide | 131 mmol, 7.06 g | C[O-].[Na+]
reactant | 1,2-ethanedithiol | 52.3 mmol, 4.4 mL | C(CS)S | C2H6S2
reactant | HCl | 2 N | Cl | ClH
solvent | EtOH | 300 mL | CCO | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3,3′-(ethane-1,2-diylbis(sulfanediyl))bis(propane-1-sulfonic acid) | C(CSCCCS(=O)(=O)O)SCCCS(=O)(=O)O | C8H18O6S4
